* Z:\mnt\design.r\spice\examples\2960-2.asc
R1 N003 N008 100K
R2 OUT _RESET 10Meg
R3 N001 N007 5.6Meg
R4 N007 0 402K
C1 OUT 0 1µ
R5 OUT N006 6.04Meg
R6 N006 0 402K
Vbat N001 0 PWL(0 0 200 9 400 0 400.001 -3)
R7 N002 N003 1Meg
D1 N003 N002 BZX84C15L
M§Q1 OUT N003 N002 N002 Si4427DY
M§Q2 N001 N003 N002 N002 Si4427DY
R8 N001 N004 10K
XU1 N004 0 _RESET N008 0 N005 N006 N007 LTC2960-2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
* Prevention of Excessive Battery Drain in Low Battery Conditions
* 6V to 8.4V
.tran 400
.lib LTC2960-2.sub
.backanno
.end
